Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
bike fall, right rib fractures
 
Major Surgical or Invasive Procedure:
___: Right chest tube placement 

 
History of Present Illness:
Mr. ___ is a ___ years-old male who was biking on ___ and 
lost his balance and fell on his right chest. He denied hitting 
his head or anything else. He remembers the incident. After the 
initial pain of impact he felt better and went home. The pain 
worsened overnight into the morning. Went to his PCP who noted 
he should have a CXR which shows rib fractures and a 
pneumothorax. Referred to ___ for further evaluation. ___ ED 
placed a chest tube.

 
Past Medical History:
PAST MEDICAL HISTORY:  
 -BPH  
 -Depression  
 -Seasonal affective disorder  
 -Anxiety  
 -Insomnia  

 PAST SURGICAL HISTORY:  
 -Bilateral inguinal hernias ___ 
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION
VS: 98.6 77 154/77 18 100% RA 
NAD, AAOx3
normocephalic, atraumatic, normal midface without instability, 
no
blood in ears or nares, oral cavity intact and normal
no midline tenderness neck or back
trachea midline, mild chest crepitus and severe tenderness over
right upper chest, non-tender left chest
chest tube inserts mid axillary ___ intercostal right side,
respiratory variation in tube
abdomen soft non-tender non-distended
pelvis stable
extremities non-tender without obvious signs trauma
abrasion 1 cm left shin, warm feet

PHYSICAL EXAM ON DISCHARGE
VS: 98.1,  54, 112/62, 18, 96% RA 
GENERAL: NAD, AAOx3
HEENT: normocephalic, atraumatic
NECK: no midline tenderness, no LAD
CHEST: Bilateral breath sounds present, mild tenderness over 
right upper chest, non-tender left chest
CV: S1S2 present, RRR, no m/r/g
ABDOMEN: soft non-tender non-distended, pelvis stable
EXTREMITIES: peripheral pulses present, non-tender, warm feet
 
Pertinent Results:
LABS

___ 04:30PM BLOOD WBC-9.7 RBC-4.57* Hgb-14.3 Hct-42.9 
MCV-94 MCH-31.3 MCHC-33.3 RDW-13.5 RDWSD-46.5* Plt ___
___ 06:45AM BLOOD WBC-8.6 RBC-4.47* Hgb-14.1 Hct-42.6 
MCV-95 MCH-31.5 MCHC-33.1 RDW-13.4 RDWSD-47.5* Plt ___
___ 04:30PM BLOOD Neuts-71.5* ___ Monos-6.3 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-6.91* AbsLymp-2.04 
AbsMono-0.61 AbsEos-0.03* AbsBaso-0.03
___ 04:30PM BLOOD ___ PTT-28.4 ___
___ 06:45AM BLOOD Plt ___
___ 04:30PM BLOOD Glucose-92 UreaN-12 Creat-0.9 Na-140 
K-4.2 Cl-103 HCO3-26 AnGap-15
___ 06:45AM BLOOD Glucose-84 UreaN-18 Creat-1.0 Na-137 
K-4.1 Cl-98 HCO3-25 AnGap-18
___ 06:45AM BLOOD Calcium-8.8 Phos-3.0 Mg-2.1

IMAGING

CXR (___)
IMPRESSION:
Small right apical pneumothorax is stable since the prior study. 
  
Multiple right-sided rib fractures are better assessed on the 
prior study 
which included the rib series. 

CT HEAD (___)
IMPRESSION:    
No acute intracranial abnormality. 

CXR (___)
IMPRESSION:  
Compared to chest radiographs ___. 
No appreciable right pneumothorax or pleural effusion, apical 
pleural drain unchanged in position.  Lungs grossly clear.  
Heart size normal. 

 
Brief Hospital Course:
The patient presented to Emergency Department on ___. Upon 
arrival to ED CXR showed right ___ rib fractures and right 
apical pneumothorax so ED staff place right chest tube and 
admitted to the floor for pain control and chest tube 
management.  

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was managed with oral oxycodone and 
Tylenol and IV morphine for breakthrough. 
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Chest tube was 
placed in the ED on ___ and kept until ___ before discharge. 
Good pulmonary toilet, incentive spirometry were encouraged 
throughout hospitalization. 
GI/GU/FEN: The patient tolerated a regular diet. Patient's 
intake and output were closely monitored
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
HOME MEDICATIONS:  
 -Wellbutrin 150mg QDay  
 -Clonopin 1mg QHs  
 -Modafinil 100-200mg QAM prn  
 -Valtrex prn  
 -Flomax 0.4mg Qday  
 -MVI  

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H  
2.  Docusate Sodium 100 mg PO BID  
3.  Ibuprofen 400 mg PO Q8H:PRN Pain - Moderate  
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth Q4H:PRN Disp #*20 Tablet 
Refills:*0 
5.  Senna 8.6 mg PO DAILY  
6.  BuPROPion 150 mg PO DAILY  
7.  ClonazePAM 1 mg PO QHS:PRN anxiety  
8.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right ___ rib fractures
Small right apical pneumothorax

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ after 
a bike fall that cause you some rib fractures and a small 
pneumothorax. You are recovering well and are now ready for 
discharge. Please follow the instructions below to continue your 
recovery:

* Your injury caused 4 rib fractures and a small pneumothorax 
which can cause severe pain and subsequently cause you to take 
shallow breaths because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___